2177-12-28 07:10:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2177-12-27**] 09:30 PM
 ARTERIAL LINE - START [**2177-12-27**] 10:00 PM
 ARTERIAL LINE - STOP [**2177-12-27**] 10:30 PM
 MULTI LUMEN - START [**2177-12-28**] 01:01 AM
 ENDOSCOPY - At [**2177-12-28**] 04:40 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2177-12-28**] 04:50 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2177-12-28**] 05:00 AM
 CARDIOVERSION/DEFIBRILLATION - At [**2177-12-28**] 05:25 AM
   went into torsades for third time, received 300 joules, converted back
   to SB low 50's.
   - femoral A-line removed
   - Right radial A-line placed
   - pt had rhythmic seizure activities, s/p ativan and dilantin load,
   resolved
   - RIJ placed
   - CT and CTA head no significant abnormalities
   - UGIB, NGT had bloody outpt, gastric lavage with 750cc NS not
   clearing, GI decided not to scope after patient went into Torsade
   - Had Torsade de pointes x4, s/p shock x3 and magnesium 4gm
   - amiodarone stopped, lidocaine started
   - hct stable, heparin gtt started without bolus
   - neuron, GI, Csurg following
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Pantoprazole (Protonix) - 8 mg/hour
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Lidocaine - 2 mg/min
   Heparin Sodium - 800 units/hour
   Other ICU medications:
   Fentanyl - [**2177-12-27**] 08:30 PM
   Pantoprazole (Protonix) - [**2177-12-27**] 10:06 PM
   Lorazepam (Ativan) - [**2177-12-28**] 02:30 AM
   Midazolam (Versed) - [**2177-12-28**] 04:10 AM
   Lidocaine - [**2177-12-28**] 05:35 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-28**] 06:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 50 (50 - 108) bpm
   BP: 150/66(97) {91/47(61) - 156/66(97)} mmHg
   RR: 16 (10 - 19) insp/min
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
           Total In:
                                                                    430 mL
                                                                  1,301 mL
   PO:
           TF:
   IVF:
                                                                    393 mL
                                                                    588 mL
   Blood products:
                                                                     38 mL
                                                                    713 mL
   Total out:
                                                                    790 mL
                                                                    633 mL
   Urine:
                                                                    390 mL
                                                                    633 mL
   NG:
                                                                    400 mL
   Stool:
   Drains:
   Balance:
                                                                   -360 mL
                                                                    668 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.37/40/450/22/-1
   Ve: 7.3 L/min
   PaO2 / FiO2: 450
   Physical Examination
   GENERAL: intubated, sedated
   HEENT: PERRLA.   Neck supple with JVP of 6 cm.
   CARDIAC: regular rhythm, bradycardic. normal S1, S2.  II/VI late
   peaking systolic murmur heard best at the base. No thrills, lifts. No
   S3 or S4.
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: No c/c/e.
   PULSES:  Right: Radials 2+ DP 2+ PT 2+,  Left: Radials 2+ DP 2+ PT 2+
   Neuro: non-arousable. opens eyes spontaneously; does not make noises;
   not withdrawing to painful stimuli; pupils reactive to light; +corneal
   reflexes. babinskis downgoing BL.
   Labs / Radiology
   188 K/uL
   12.3 g/dL
   242 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.5 mEq/L
   21 mg/dL
   109 mEq/L
   140 mEq/L
   37.2 %
   14.4 K/uL
        [image002.jpg]
                             [**2177-12-27**]  08:12 PM
                             [**2177-12-27**]  09:33 PM
                             [**2177-12-27**]  10:16 PM
                             [**2177-12-27**]  11:14 PM
                             [**2177-12-28**]  03:15 AM
                             [**2177-12-28**]  03:24 AM
                             [**2177-12-28**]  04:55 AM
                             [**2177-12-28**]  05:01 AM
   WBC
   17.5
   14.4
   Hct
   31.8
   32.5
   36.7
   37.2
   Plt
   205
   188
   Cr
   0.5
   0.5
   TropT
   0.49
   0.32
   TCO2
   24
   23
   24
   24
   Glucose
   171
   242
   Other labs:
   PT / PTT / INR:14.4/36.9/1.2,
   CK / CKMB / Troponin-T:196/24/0.32,
   ALT / AST:24/37, Alk Phos / T Bili:55/0.8, Lactic Acid:1.4 mmol/L,
   Albumin:3.2 g/dL, LDH:218 IU/L,
   Ca++:7.9 mg/dL, Mg++:8.2 mg/dL, PO4:3.1 mg/dL
   CT and CTA head: read pending
   CXR: read pending
   [**Year (4 digits) **] and Plan
   [**Year (4 digits) **] AND PLAN: 77 yo F w/ DMII, HTN, HLD, and dementia
   transferred from OSH s/p cardiac arrest, complicated by upper GI bleed
   and generalized seizure activity.
   .
   # CORONARIES: Patient with multiple risk factors for CAD including
   DMII, HTN, HLD. She is s/p cardiac arrest, likely VF in setting of AED
   shocks x2. Concern for antero-lateral NSTEMI given ST depressions in
   V2-V6 and TWI in I and aVL. She is s/p cardiac catherization at OSH
   which shows severe 3VD including critical left main disease. Patient
   with negative troponins at OSH, but positive troponins noted in setting
   of ACS vs. troponin leak from AED shocks. Patient would benefit from
   Arctic Sun protocol given recent VF arrest, stable hemodynamics, and
   current GCS scale of 9 (< 10). Relative contra-indications include
   active GIB, but per discussion with post arrest team, pt can be
   re-warmed if bleeding worsened. Head CT negative for acute ICH.
   Patient received full dose ASA yesterday.  Arctic sun was initiated
   after 9h, and was stopped after 2.5h due to bradycardia and torsade de
   pointes.
   - continue heparin gtt without bolus
   - will give aspirin 81mg, high dose statin, plavix and low dose BB
   (metoprolol 6.25 [**Hospital1 **]) once pt is able to take PO meds from GIB stand
   point.
   - rewarm patient
   .
   # VF Arrest:  It appears that the first episode of VF arrest in the
   nursing home was related to ischemia.  However, the later VF arrest in
   OSH ED and the 4 episodes of VF overnight last night were due to
   re-perfusion given normalization of EKG, and no evidence of troponin
   elevation.  Pt loaded with lidocaine, on lidocaine gtt.  She also
   received 4gm magnesium.
   - continue lidocaine gtt, decrease to 1mg/min
   - cardioversion if pt goes back to VF and if she continues to be full
   code
   - replete K > 4, Mg > 2
   - telemetry
   .
   # Anoxic brain injury: Patient noted to have generalized seizure
   activity upon arrival to CCU. No acute bleed on Head CT. [**Month (only) 8**] be in
   setting of hypoxia after the 1st VF arrest.  Patient was loaded with
   dilantin. Patient was initiated on Arctic sun cooling protocol 9h after
   the second episode of cardiac arrest at OSH.  Patient developed
   bradycardia, QTc prolongation and VF, s/p cardioversion x3, arctic sun
   was therefore stopped.
   - d/c all sedating meds, including versed and phentanyl
   - f/u on final CT head read
   - need EEG to further assess neuro function
   - f/u neuro recs
   - IV ativan 2 mg PRN: seizure activity
   - seizure precautions
   .
   # GI bleed: Likely UGIB in setting of anticoagulation received
   (heparin, ASA, plavix, integrillin). Patient on ASA at home, but no
   history of GI bleeds in the past. Patient is currently hemodynamically
   stable and receiving 2 U PRBCs. Guiac positive. Received 2u pRBC
   overnight.  Hct bumped appropriately from 31.8 to 37.2.  GI decided not
   to perform upper endoscopy given VF episodes.
   - active T&S
   - continue IV protonix gtt
   - has 2 PIVs and central line access
   - Hct checks [**Hospital1 **]
   - continue heparin gtt
   - f/u GI recs on when pt can start to take PO meds
   .
   # Hypotension: Patient was initially hypertensive after being admitted
   to CCU.  After initiation of Arctic Sun, patient has been bradycardic
   and hypotensive.  Arctic sun stopped after 2.5h, and patient is being
   rewarmed.  Medication effects are also playing a role, including nitro
   gtt which was discontinued, sedating medications including versed and
   phentanyl also lead to hypotension. GIB likely also plays a role.  NS
   bolus did not help significantly, so patient was put on dopamine gtt
   early this morning.
   - d/c versed and phentanyl
   - down-titrate dopamine as tolerated
   - maintain goal MAP>60, UOP >30cc/hr, goal CVP 10cm
   - GIB management as above
   .
   # PUMP:  unknown EF. Patient appears likely hypovolemic on exam in
   setting of recent UGIB.
   - TTE to assess for EF.
   .
   #  HLD:
   - f/u fasting lipid panel
   - continue high dose statin once taking PO meds
   .
   #  Diabetes Mellitus II:
   - hold metformin, continue ISS
   - f/u  HgA1c
   .
   #  Schizophrenia
   - continue risperdal once taking PO meds
   .
   # Dementia:
   - continue Namenda once taking PO meds
   .
   # PVD: s/p AAA repair
   - continue statin once taking PO meds
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  insulin sliding scale
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   18 Gauge - [**2177-12-27**] 11:19 PM
   20 Gauge - [**2177-12-28**] 12:16 AM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  IV protonix
   VAP:  VAP bundle
   Comments:
   Communication: [**Name (NI) 777**] [**Name (NI) 11060**] (HCP/DTR) [**Telephone/Fax (1) 11061**] (h) [**Telephone/Fax (1) 11062**]
   (c)
   Code status: Full code
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note: 08.00hrs
   Reviewed data and Dr.[**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1412**].
   Examined Pt and agree that Anoxic encephalopathy will determine further
   Rx.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 60mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2177-12-28**] 10:54 ------

2177-12-29 06:11:00 Physician Resident Progress Note
Chief Complaint: s/p cardiac arrest
   24 Hour Events:
   - GI without immediate plan for endoscopy
   - final CTA head: 1. Bilateral atherosclerotic disease of carotids with
   possible ulceration vs small dissection at the origin of the left
   internal carotid. 2. Fenestration at the anterior communicating artery
   with small aneurysmatic formation (2 mm) 3. Chronic microvascular
   ischemic changes. 4. Bilateral sinus disease.
   - Fever to 102.8 at 8:30pm. Blood cx (A-line & right IJ), U/A, Ucx,
   Sputum cx sent. CXR looked clear, u/a c/w contaminant, so re-sent in
   AM.
   - 3pm Hct: 33.5 ==> 9pm Hct: 31.9, stable overnight
   - Weaned off Dopamine
   - Received 3L NS o/n for low CVP and decreasing UOP
   - Hypertensive to sbp
s 180-190
s, received 5mg IV Labetalol x 2 with
   resulting sbp
s in the 160
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Heparin Sodium - 800 units/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-29**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 39.3
C (102.8
   Tcurrent: 37.1
C (98.8
   HR: 79 (54 - 94) bpm
   BP: 124/54(77) {124/54(77) - 124/54(77)} mmHg
   RR: 15 (0 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 13 (2 - 13)mmHg
   Total In:
                                                                  4,758 mL
                                                                  1,200 mL
   PO:
   TF:
   IVF:
                                                                  4,045 mL
                                                                  1,200 mL
   Blood products:
                                                                    713 mL
   Total out:
                                                                  1,303 mL
                                                                    400 mL
   Urine:
                                                                  1,303 mL
                                                                    300 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  3,455 mL
                                                                    800 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 21 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.41/38/118/23/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General: Elderly obese woman, lying on back in bed, intubated,
   unresponsive to voice
   HEENT: NC/AT, pupils constrict bilaterally
   Cardio: RRR, II/VI systolic murmur at LUSB & apex
   Pulmonary: Coarse breath sounds throughout anterior chest
   Abdominal: soft, non-distended, quiet bowel sounds
   Extremities: Warm, well-perfused. No edema, cyanosis, clubbing.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Neurologic: Pupils constrict bilaterally. Opens eyes to voice. Yawning
   spontaneously. Babinski
s upgoing bilaterally. No response to noxious
   stimuli.
   Labs / Radiology
   172 K/uL
   10.3 g/dL
   154 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.4 mEq/L
   17 mg/dL
   113 mEq/L
   143 mEq/L
   31.0 %
   12.8 K/uL
        [image002.jpg]
                             [**2177-12-27**]  11:14 PM
                             [**2177-12-28**]  03:15 AM
                             [**2177-12-28**]  03:24 AM
                             [**2177-12-28**]  04:55 AM
                             [**2177-12-28**]  05:01 AM
                             [**2177-12-28**]  04:13 PM
                             [**2177-12-28**]  04:28 PM
                             [**2177-12-28**]  08:51 PM
                             [**2177-12-29**]  01:13 AM
                             [**2177-12-29**]  04:09 AM
   WBC
   14.4
   12.8
   Hct
   36.7
   37.2
   33.5
   31.9
   31.0
   31.0
   Plt
   188
   172
   Cr
   0.5
   0.5
   TropT
   0.32
   TCO2
   23
   24
   24
   25
   Glucose
   242
   154
   Other labs: PT / PTT / INR:14.7/73.7/1.3, CK / CKMB /
   Troponin-T:196/24/0.32, ALT / AST:24/37, Alk Phos / T Bili:55/0.8,
   Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:218 IU/L, Ca++:6.9 mg/dL,
   Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 77 yo F w/ DMII, HTN, HLD, and dementia
   transferred from OSH s/p cardiac arrest, complicated by upper GI bleed
   and generalized seizure activity.
   .
   # Coronary ischemia s/p VF arrest: Patient with multiple risk factors
   for CAD including DMII, HTN, HLD. She is s/p VF arrest & cardioversion.
   EKG initially concerning for NSTEMI and cardiac catheterization at OSH
   demonstrated severe 3VD including critical left main disease, but
   patient with negative troponins at OSH and EKG normalized after
   cardioversion suggesting auto-clearance of coronary occlusion. Patient
   was unable to tolerate Artic Sun protocol (terminated after 2.5 hours)
   given bradycardia, hypotension.  Now, patient with positive troponins
   after AED shocks. Head CT negative for ICH.  Patient without further
   episodes of arrythmia over the past 24 hours on Lidocaine gtt.
   - Continue Lidocaine gtt at 1mg/min
   - Continue Heparin gtt for now, d/c after 48 hours ([**12-30**] @ 5AM)
   - Defibrillate if pt goes into VF
   - replete K > 4, Mg > 2
   - Continuous telemetry
   - Plan for Aspirin 81mg, Lipitor, Plavix and Metoprolol once pt is able
   to take PO meds (GI bleed).
   .
   # Anoxic brain encephalopathy: Patient noted to have generalized
   seizure activity upon arrival to CCU. CTA head demonstrates 1.
   Bilateral atherosclerotic disease of carotids with possible ulceration
   vs small dissection at the origin of the left internal carotid. 2.
   Fenestration at the anterior communicating artery with small
   aneurysmatic formation (2 mm) 3. Chronic microvascular ischemic
   changes. 4. Bilateral sinus disease, but no ICH. Neurology felt that
   the seizure may have been in the setting of hypoxia after VF arrest.
   She was loaded with Dilantin on [**12-28**]. Artic Sun was initiated, but
   terminated early as patient was unable to tolerate. This AM, patient
   opening her eyes to voice. Babinski
s remain upgoing bilaterally.
   - 24 hr EEG ordered to further assess neurologic function
   - f/u Neurology recs
   - IV Ativan 2 mg PRN: seizure activity
   - Seizure precautions
   .
   # Fever, leukocytosis: Patient admitted with WBC of 14, spiked fever to
   102.8 on [**12-28**] PM, resolved with Tylenol. [**Month (only) 8**] be reactive to cardiac
   arrest and trauma from resuscitation, but degree of fever significant.
   Given proximity of intubation and hospitalization, unlikely to be
   HAP/VAP and a repeat CXR was clear. All line sites appear clean and
   without erythema or drainage this AM, but patient had A-line in her
   groin placed at OSH, that has subsequently been pulled, that could be
   possible nidus. Blood cultures, U/A, urine cultures, sputum cultures
   sent. U/A c/w contaminant, will repeat this AM. Sputum gram stain
   demonstrates 4+ gram negative diplococci, 2+ gram positive cocci in
   pairs & clusters, 1+ gram negative rods, 1+ gram positive rods. No
   diarrhea. WBC trending down this AM to 12.8.
   - F/U final CXR read
   - F/U repeat U/A
   - F/U blood, urine, sputum cx
   - If patient develops diarrhea, can send C. diff
   .
   # GI bleed: Patient s/p 2u pRBC
s on [**12-28**] for likely UGIB in setting of
   anticoagulation (Heparin gtt, ASA, Plavix, Integrillin). Patient on ASA
   at home, but no history of GI bleeds in the past. Patient is currently
   hemodynamically stable with slowly drifting Hct
s. Hct stable o/n at
   31.0. NG output bloody-appearing. Guaiac positive. GI held off on upper
   endoscopy yesterday and given relative stability, no urgent need for
   endoscopy, but can revisit if patient drops Hct significantly.
   - Active T&S, R-IJ & two PIV
   - Continue IV Pantoprazole gtt
   - Hct checks TID
   - f/u GI recs re: endoscopy & PO medications
   - Continue Heparin gtt until [**12-30**] AM unless patient becomes
   hemodynamically unstable.
   - Transfuse for Hct goal >30
   .
   #  Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, now weaned from Dopamine gtt overnight,
   and hypertensive with sbp
s in the 180-190
s. Hypertension may be
   partially owed to fluids received overnight for low CVP and low-normal
   urine output. While patient is noted to have h/o HTN, her baseline BP
   are unknown and she takes no antihypertensives as an outpatient. She
   received 5mg IV Labetalol x 2 with sbp
s to the 160
s. Neuro confirmed
   this as an appropriate antihypertensive regimen.
   - Continue IV Labetalol if hypertension progresses
   - maintain goal MAP>60, UOP >30cc/hr, goal CVP 10cm
   .
   #  PUMP:  No baseline EF. No current evidence of heart failure.
   Valvular function unknown. Given clinical presentation, will defer TTE
   for now, but can reconsider if functional status improves.
   .
   #  HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - NPO, but resume Lipitor 20mg qHS once taking PO meds
   .
   #  Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - Increased ISS for improved coverage
   .
   #  Schizophrenia:
   - NPO, but resume home Risperdal 4mg qAM & 6mg q8PM once taking PO meds
   .
   # Dementia:
   - NPO, but resume Namenda 10mg [**Hospital1 **] once taking PO meds
   .
   # PVD: s/p AAA repair
   - NPO, but resume home Lipitor 20mg qHS when taking PO meds
   ICU Care
   Nutrition: NPO
   Glycemic Control:  Insulin sliding scale
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   18 Gauge - [**2177-12-27**] 11:19 PM
   20 Gauge - [**2177-12-28**] 12:16 AM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: Heparin gtt
   Stress ulcer: IV Pantoprazole
   VAP:  none
   Communication:  HCP is Daughter, [**Name (NI) 777**]
   [**Last Name (NamePattern1) 156**] status: FULL CODE
   Disposition: pending clinical improvement
   ------ Protected Section ------
   Attending
s Note: 09.30hrs.
   Reviewed Dr.[**Last Name (STitle) 10891**]
s notes,examined Pt and discussed management.
   Rx plan outlined
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2177-12-29**] 10:19 ------

2177-12-30 07:29:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2177-12-29**] 01:30 PM
   - Neuro attending: no withdrawal to pain. Want sbp at 150-160
   - BP > 180. Gave 5 labetalol at 1430
   - clarified code status: no chest compressions; shocks only, if shocks
   ineffective then no chest compressions
   - trying to find out why EEG not done
   - low UOP from 3-5pm, 500 cc bolus; no response, got another 500cc
   - lots of worry from daughter about Psoriasis cream for feet
   - HCT from 31--> 32.3 -->30.5, then fell from 30.5 to 27.6; has brown
   stools with red streaks. No transfusion, heparin to be dc'd
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Lidocaine - 1 mg/min
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Labetalol - [**2177-12-29**] 10:40 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-30**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.6
C (99.6
   HR: 77 (63 - 88) bpm
   BP: 124/54(77) {0/0(0) - 0/0(0)} mmHg
   RR: 19 (10 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.4 kg (admission): 67 kg
    CVP: 5 (4 - 7)mmHg
   Total In:
                                                                  3,092 mL
                                                                    262 mL
   PO:
   TF:
   IVF:
                                                                  3,092 mL
                                                                    264 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    535 mL
   Urine:
                                                                    870 mL
                                                                    285 mL
   NG:
                                                                    510 mL
                                                                    250 mL
   Stool:
   Drains:
   Balance:
                                                                  1,712 mL
                                                                   -271 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 480 (480 - 480) mL
   RR (Set): 16
   RR (Spontaneous): 5
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.44/35/186/23/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 465
   Physical Examination
   General: Elderly obese woman, lying on back in bed, intubated,
   unresponsive to voice
   HEENT: NC/AT, pupils constrict bilaterally, has corneal reflex
   bilaterally
   Cardio: RRR, II/VI systolic murmur at LUSB & apex
   Pulmonary: Coarse breath sounds throughout anterior chest
   Abdominal: soft, non-distended, quiet bowel sounds
   Extremities: Warm, well-perfused. No edema, cyanosis, clubbing.
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Neurologic: Opens eyes to commands, follow commands to move eyes up,
   down, left and right.  Pupils constrict bilaterally, has corneal reflex
   bilaterally. Follow commands to squeeze hands and wiggle toes
   bilaterally.  Able to follow commands to keep arms up for a second.
   Babinski
s upgoing bilaterally. No response to painful stimuli.
   Labs / Radiology
   168 K/uL
   9.2 g/dL
   153 mg/dL
   0.4 mg/dL
   23 mEq/L
   3.7 mEq/L
   17 mg/dL
   113 mEq/L
   141 mEq/L
   27.6 %
   13.4 K/uL
        [image002.jpg]
                             [**2177-12-28**]  04:13 PM
                             [**2177-12-28**]  04:28 PM
                             [**2177-12-28**]  08:51 PM
                             [**2177-12-29**]  01:13 AM
                             [**2177-12-29**]  04:09 AM
                             [**2177-12-29**]  10:06 AM
                             [**2177-12-29**]  04:57 PM
                             [**2177-12-29**]  05:08 PM
                             [**2177-12-30**]  03:16 AM
                             [**2177-12-30**]  03:28 AM
   WBC
   12.8
   13.4
   Hct
   33.5
   31.9
   31.0
   31.0
   32.3
   30.5
   27.6
   Plt
   172
   168
   Cr
   0.5
   0.4
   TCO2
   25
   23
   25
   Glucose
   154
   153
   Other labs:
   PT / PTT / INR:15.0/90.0/1.3,
   Ca++:7.6 mg/dL, Mg++:2.0 mg/dL, PO4:1.5 mg/dL
   -----------------------------------------------------------------------
   ------------------------
   Micro:
[**2177-12-28**] 8:53 pm SPUTUM      Source: Expectorated.
   GRAM STAIN (Final [**2177-12-29**]):
      >25 PMNs and <10 epithelial cells/100X field.
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
      2+   (1-5 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                    IN PAIRS AND CLUSTERS.
      1+    (<1 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
      1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
   RESPIRATORY CULTURE (Preliminary):
   -----------------------------------------------------------------------
   ------------------------
[**2177-12-28**] 8:51 pm BLOOD CULTURE      Source: Line-cl.
   Blood Culture, Routine (Preliminary):
      GRAM POSITIVE COCCUS(COCCI).    IN PAIRS AND CLUSTERS.
   Aerobic Bottle Gram Stain (Final [**2177-12-29**]):
      GRAM POSITIVE COCCI IN PAIRS AND CLUSTERS.
--------------------------------------------------------------------------------
---------------
TTE ([**2177-12-29**]): The left atrium is mildly dilated. The left ventricular cavity si
ze is normal. There is mild regional left ventricular systolic dysfunction with
basal to mid inferior and inferolateral hypokinesis. The aortic valve leaflets a
re mildly thickened (?#). There is no aortic valve stenosis. No aortic regurgita
tion is seen. The mitral valve leaflets are mildly thickened. Mild (1+) mitral r
egurgitation is seen. [Due to acoustic shadowing, the severity of mitral regurgi
tation may be significantly UNDERestimated.] There is no pericardial effusion. T
here is an anterior space which most likely represents a fat pad.
IMPRESSION: poor technical quality due to patient's body habitus. Mild focal LV
systolic dysfunction. Mild mitral regurgitation.
   Assessment and Plan
   ASSESSMENT AND PLAN: 77 yo F w/ DMII, HTN, HLD, and dementia
   transferred from OSH s/p cardiac arrest, complicated by upper GI bleed
   and generalized seizure activity.
   .
   # Coronary ischemia s/p VF arrest: Patient with multiple risk factors
   for CAD including DMII, HTN, HLD. She is s/p VF arrest & cardioversion.
   EKG initially showed NSTEMI and cardiac catheterization at OSH
   demonstrated severe 3VD including critical left main disease, but
   patient with negative troponins at OSH and EKG normalized after
   initiation of medical therapy including aspirin, plavix, heparin, and
   integrillin, suggesting resolution of coronary occlusion. Patient was
   unable to tolerate Artic Sun protocol (terminated after 2.5 hours)
   given bradycardia, hypotension, and new VF arrests x4 s/p electrical
   cardioversion.   Patient without further episodes of arrythmia over the
   past 48 hours, off Amiodarone and lidocaine. Heparin gtt was
   discontinued early this AM.  She was on heparin gtt for approx. 48h.
   Code status was changed to
shock ok, no compression
   - d/c lidocaine gtt today
   - start pr aspirin today
   - Defibrillate if pt goes into VF
   - replete K > 4, Mg > 2
   - Continuous telemetry
   - Plan for Aspirin 81mg, Lipitor, Plavix and Metoprolol once pt is able
   to take PO meds (GI bleed).
   .
   # Anoxic brain encephalopathy: Patient noted to have generalized
   seizure activity upon arrival to CCU. CTA head demonstrates no ICH.
   Neurology felt that the seizure may have been in the setting of hypoxia
   after VF arrest.  She was loaded with Dilantin on [**12-28**]. Artic Sun was
   initiated, but terminated early as patient was unable to tolerate.
   Patient is slowly improving, currently following commands, indicating
   improving cortical function. Brainstem reflexes present.  EEG ordered,
   but couldn
t get it done yesterday.  Dilantin was loaded, but patient
   hasn
t received maintenance dose.
   - start dilantin 100mg TID, will check level tomorrow
   - 24 hr EEG will be done today to further assess neurologic function
   - f/u Neurology recs, currently
cautiously optimistic
   - IV Ativan 2 mg PRN: seizure activity
   - follow serial neuro exams
   - Seizure precautions
   .
   # Fever, leukocytosis: Patient admitted with WBC of 14, has been
   spiking fevers, receiving tylenol.  [**Month (only) 8**] be reactive to cardiac arrest
   and trauma from resuscitation. Given proximity of intubation and
   hospitalization, unlikely to be HAP/VAP and a repeat CXR was clear.
   Blood cultures, U/A, urine cultures, sputum cultures sent. U/A c/w
   contaminant. Sputum gram stain demonstrates 4+ gram negative
   diplococci, 2+ gram positive cocci in pairs & clusters, 1+ gram
   negative rods, 1+ gram positive rods. Blood culture from the central
   line grew out GPC in [**12-15**] bottles.  No abx was started given only
   bottles are positive with GPC. No diarrhea. WBC stable at 13.4 today.
   - f/u GPC speciation and sensitivities in blood cx, if MRSA, will start
   vanc
   - F/U remaining blood, urine, sputum cx
   - If patient develops diarrhea, can send C. diff
   .
   # GI bleed: Patient s/p 2u pRBC
s on [**12-28**] for likely UGIB in setting of
   anticoagulation (Heparin gtt, ASA, Plavix, Integrillin). This am, hct
   dropped from 30.5-27.6, was given another unit of pRBC.  Heparin gtt
   was discontinued. Patient on ASA at home, but no history of GI bleeds
   in the past. NG output continues to be bloody-appearing. Guaiac
   positive. GI held off on upper endoscopy and given relative stability,
   no urgent need for endoscopy, but can revisit if patient drops Hct
   significantly.
   - Active T&S, R-IJ & two PIV
   - Continue IV Pantoprazole gtt
   - Hct checks TID
   - f/u GI recs re: endoscopy & PO medications
   - Transfuse for Hct goal >30
   .
   #  Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, now has been hypertensive with sbp
s in
   the 180-190
s, requiring labetalol prn. Hypertension may be partially
   due to fluids received for low-normal urine output. While patient is
   noted to have h/o HTN, her baseline BP
s are unknown and she takes no
   antihypertensives as an outpatient. She received 5mg IV Labetalol x 2
   yesterday. Neuro confirmed this as an appropriate antihypertensive
   regimen, and goal.
   - Continue IV Labetalol if hypertension progresses
   - maintain goal sbp at 150-160, UOP >30cc/hr, goal CVP 10cm
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - IVF prn for low UOP
   - will start BB and lisinopril once patient can take POs.
   .
   #  HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - NPO, but resume Lipitor 20mg qHS once taking PO meds
   .
   #  Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - NPO, but resume home Risperdal 4mg qAM & 6mg q8PM once taking PO meds
   .
   # Dementia:
   - NPO, but resume Namenda 10mg [**Hospital1 **] once taking PO meds
   .
   # PVD: s/p AAA repair
   - NPO, but resume home Lipitor 20mg qHS when taking PO meds
   ICU Care
   Nutrition:
   NPO.
   Glycemic Control:  humalog ISS
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   18 Gauge - [**2177-12-27**] 11:19 PM
   20 Gauge - [**2177-12-28**] 12:16 AM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: IV Pantoprazole
   VAP:  none
   Communication:  HCP is Daughter, [**Name (NI) 777**]
   [**Last Name (NamePattern1) 156**] status: FULL CODE (NO COMPRESSION, BUT OK TO SHOCK)
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note: 10.00hrs
   Reviewed  overnight course and examined Pt.
   Agree that ther has been positive improvement signs.
   Continue Rx as outlined.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2177-12-30**] 11:27 ------

2177-12-31 07:20:00 Physician Resident Progress Note
Chief Complaint: s/p cardiac arrest
   24 Hour Events:
   - 24hr EEG performed
   - GI: no plan to do EGD, can start PO meds when CCU team feels
   appropriate
   - started on Dilantin 100mg TID, per neuro
   - had some right hand shaking in the afternoon thought to be seizure
   activity, given 2mg IV ativan, but after speaking with family &
   neurology, felt this was more c/w patient's known dyskinesia from
   risperdone as it resolves with soft pressure to the hand
   - Lidocaine gtt turned off
   - started on PR ASA 300mg daily
   - urine cx: GNR
   - sputum cx: MORAXELLA CATARRHALIS (HEAVY GROWTH)
   - blood cx from [**12-28**]: Coag Negative Staph
   - Antibiotics changed to Ceftriaxone
   - Received Labetalol IV 5mg x1, 10mg x1 for hypertension
   - Hct went up from 27.6 to 29.4 after 1u pRBC, went down from 29.4 to
   28.7 in the PM, given another unit pRBC
   - On pressure support, [**7-16**], for minute ventilation was low, so was put
   back onto MMV
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-12-30**] 12:40 PM
   Ceftriaxone - [**2177-12-30**] 07:18 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2177-12-30**] 04:30 PM
   Morphine Sulfate - [**2177-12-30**] 06:00 PM
   Labetalol - [**2177-12-30**] 06:45 PM
   Dilantin - [**2177-12-31**] 02:00 AM
   Hydralazine - [**2177-12-31**] 02:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2177-12-31**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.4
C (99.4
   HR: 77 (65 - 77) bpm
   BP: 148/54(86) {148/54(86) - 148/54(86)} mmHg
   RR: 25 (11 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 71.4 kg (admission): 67 kg
   Height: 64 Inch
    CVP: 7 (5 - 12)mmHg
   Total In:
                                                                  1,399 mL
                                                                    404 mL
   PO:
   TF:
   IVF:
                                                                  1,024 mL
                                                                     54 mL
   Blood products:
                                                                    375 mL
                                                                    350 mL
   Total out:
                                                                  1,575 mL
                                                                    290 mL
   Urine:
                                                                  1,025 mL
                                                                    290 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   Balance:
                                                                   -176 mL
                                                                    114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 480) mL
   Vt (Spontaneous): 410 (299 - 525) mL
   PS : 8 cmH2O
   RR (Set): 10
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 8 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.45/36/140/24/2
   Ve: 8.7 L/min
   PaO2 / FiO2: 350
   Physical Examination
   General: elderly woman, lying in bed with eyes open and tracking to
   voice, intubated, NAD
   HEENT: NC/AT, LTM device in place, intubated
   Cardio: Regular rate & rhythm, II/VI systolic murmur at LUSB
   Pulmonary: Coarse breath sounds anteriorly, no wheezes or rhonchi
   Abdominal: soft, non-distended, no wincing or grimacing to palpation,
   no masses, normoactive bowel sounds
   Extremities: Warm, well-perfused, no edema, cyanosis, onychomycoses on
   toenails bilaterally
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: Opens eyes to voice, tracks faces, moves eyes and blinks on
   command, squeezes hands bilaterally. Babinski
s down going bilaterally.
   Labs / Radiology
   156 K/uL
   11.3 g/dL
   151 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   17 mg/dL
   111 mEq/L
   143 mEq/L
   34.5 %
   13.6 K/uL
        [image002.jpg]
                             [**2177-12-29**]  10:06 AM
                             [**2177-12-29**]  04:57 PM
                             [**2177-12-29**]  05:08 PM
                             [**2177-12-30**]  03:16 AM
                             [**2177-12-30**]  03:28 AM
                             [**2177-12-30**]  12:41 PM
                             [**2177-12-30**]  12:48 PM
                             [**2177-12-30**]  09:00 PM
                             [**2177-12-31**]  05:44 AM
                             [**2177-12-31**]  05:57 AM
   WBC
   13.4
   13.6
   Hct
   32.3
   30.5
   27.6
   29.4
   28.7
   34.5
   Plt
   168
   156
   Cr
   0.4
   0.4
   TCO2
   23
   25
   26
   26
   Glucose
   153
   151
   Other labs: PT / PTT / INR:14.7/21.9/1.3, CK / CKMB /
   Troponin-T:196/24/0.32, ALT / AST:24/37, Alk Phos / T Bili:55/0.8,
   Lactic Acid:1.4 mmol/L, Albumin:3.2 g/dL, LDH:218 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.2 mg/dL
[**2177-12-30**] RESPIRATORY CULTURE (Preliminary):
      MORAXELLA CATARRHALIS.    HEAVY GROWTH.
[**2177-12-30**] URINE CULTURE (Preliminary):
      GRAM NEGATIVE ROD(S).    >100,000 ORGANISMS/ML.
   Assessment and Plan
   77 yo F w/ DMII, HTN, HLD, and dementia transferred from OSH s/p
   cardiac arrest, complicated by upper GI bleed and generalized seizure
   activity.
   .
   # Coronary ischemia s/p VF arrest: Patient with multiple risk factors
   for CAD including DMII, HTN, HLD. She is s/p VF arrest &
   defibrillation. EKG initially showed NSTEMI and cardiac catheterization
   at OSH demonstrated severe 3VD including critical left main disease,
   but patient with negative troponins at OSH and EKG normalized after
   initiation of medical therapy suggesting resolution of coronary
   occlusion. Patient without episodes of arrhythmia since the day of
   admission, now off Amiodarone, Lidocaine, and Heparin gtt. Code status
   was readdressed and HCP requesting that patient receive defibrillation
   or cardioversion as needed, but no chest compressions.
   - Continuous telemetry
   - Continue PR Aspirin
   - replete K > 4, Mg > 2
   - Consider trial of PO meds today including Plavix as Hct bumped
   appropriately and oral secretions are significantly less in quantity
   and less bloody
   .
   # Respiratory distress: Patient trialed on pressure support yesterday,
   but minute ventilation dropped, so placed back on AC. RSBI this AM 83.
   ABG appropriate. Will trial pressure support and if minute ventilation
   maintained, acknowledging patient
s known sleep apnea, can trial
   extubation.
   - Consider extubation if minute ventilation maintained and ABG
   demonstrate adequate oxygenation
   .
   # Anoxic brain encephalopathy: Patient noted to have generalized
   seizure activity upon arrival to CCU. CTA head demonstrates no ICH.
   Neurology felt that the seizure may have been in the setting of hypoxia
   after VF arrest.  Patient
s cortical function slowly returning,
   currently able to follow simple commands, e.g. squeezing both hands,
   moving eyes. She was loaded with Dilantin on [**12-28**] for seizure
   prophylaxis and a 24 hr EEG was started yesterday.  Maintenance
   Dilantin was not started until [**12-30**].  Expected serum Dilantin level
   correcting for elderly status & hypoalbuminemia is 9. Today
s level is
   4.7, so reloaded with Dilantin and continued maintenance dosing.
   - Continue Dilantin 100mg IV TID, will check level again tomorrow &
   titrate PRN
   - 24 hr EEG will be complete this morning, but preliminary results do
   not show seizure activity
   - f/u Neurology recs
   - Serial neuro exams
   - Seizure precautions, Ativan IV 2 mg PRN: seizures
   .
   # Fever, leukocytosis: Patient admitted with WBC of 14, has been
   spiking fevers, receiving Tylenol. Urine cultures grew gram negative
   rods. Speciation pending. Sputum cultures grew Moraxella catarrhalis.
   Sensitivities pending. Repeat CXR
s clear. Started on IV Ceftriaxone. 1
   of 4 blood cultures from the central line grew out coag negative
   staph.  No diarrhea. WBC stable at 13.6 today.
   - As patient switching to PO
s & Moraxella likely to be chronic and not
   cause of pneurmonia, switch back to Bactrim DS PO BID x 7 days, day [**1-18**]
   - f/u Urine & sputum cx speciation/sensitivities
   - F/U remaining blood cx
   - If patient develops diarrhea, can send C. diff
   .
   # GI bleed: Patient s/p 4u pRBC
s on (2u on [**12-28**], 2u on [**12-30**]) for
   likely UGIB in setting of anticoagulation (Heparin gtt, ASA, Plavix,
   Integrillin). Heparin gtt held since [**12-30**] AM. Hct this AM 34.5. NG
   output far less bloody-appearing. Guaiac positive. GI has no immediate
   plan for endoscopy, but can revisit if patient drops Hct significantly.
   - Active T&S ([**12-30**]), R-IJ & two PIV
   - Continue Pantoprazole, switch to PO
   - Hct checks [**Hospital1 **]
   - Transfuse for Hct goal >30
   .
   #  Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, now has been hypertensive with sbp
s in
   the 180-190
s, requiring Labetalol PRN. While patient is noted to have
   h/o HTN, her baseline BP
s are unknown and she takes no
   antihypertensives as an outpatient.
   - Goal sbp
s at 150-160, UOP >30cc/hr, goal CVP 10cm
   - Labetalol 100mg PO BID, hold if sbp<160. If not adequate, can trial
   Hydralazine
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - IVF PRN for low UOP
   - Begin Metoprolol  PO today
   .
   #  HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - Start Lipitor 80mg qHS
   .
   #  Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - Resume home Risperdal 4mg qAM & 6mg q8PM
   .
   # Dementia:
   - Resume Namenda 10mg [**Hospital1 **]
   .
   # PVD: s/p AAA repair
   - Start Lipitor 80mg qHS
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  Humalog ISS
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   18 Gauge - [**2177-12-27**] 11:19 PM
   20 Gauge - [**2177-12-28**] 12:16 AM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV Pantoprazole
   VAP:  none
   Communication:  HCP is Daughter, [**Name (NI) 777**]
   [**Last Name (NamePattern1) 156**] status: FULL CODE (NO COMPRESSION, BUT OK TO SHOCK)
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note: 08.30hrs.
   Reviewed overnight course and data.
   Examined Pt and agree with notes of Dr.[**Last Name (STitle) 10891**].
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**],
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2177-12-31**] 09:51 ------

2178-01-01 07:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2177-12-31**] 11:00 AM
   - patient placed on 40% facemask, ABG's look good
   - Hct bumped appropriately and NG output decreased to <200cc overnight
   with significantly less [**Last Name (LF) 1056**], [**First Name3 (LF) **] PO meds restarted
   - Noon Hct: 33.1
   - 9PM Hct: 32.2
   - EEG: completed, but results pending
   - ordered for S&S eval tomorrow
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-12-30**] 12:40 PM
   Ceftriaxone - [**2177-12-31**] 08:20 PM
   Infusions:
   Other ICU medications:
   Dilantin - [**2178-1-1**] 12:19 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-1**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.7
C (99.8
   HR: 79 (68 - 87) bpm
   BP: 110/44(60) {110/44(60) - 110/44(60)} mmHg
   RR: 22 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 74 kg (admission): 67 kg
   Height: 64 Inch
    CVP: 20 (5 - 24)mmHg
   Total In:
                                                                    840 mL
                                                                     60 mL
   PO:
   TF:
   IVF:
                                                                    310 mL
   [**Year (2 digits) **] products:
                                                                    350 mL
   Total out:
                                                                  1,375 mL
                                                                    360 mL
   Urine:
                                                                  1,275 mL
                                                                    360 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                   -535 mL
                                                                   -300 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   FiO2: 40%
   ABG: 7.42/41/167//2
   Physical Examination
   General: elderly woman, lying in bed with eyes open and tracking to
   voice, NAD
   HEENT: NC/AT, LTM device in place, face tent in place
   Cardio: Regular rate & rhythm, II/VI systolic murmur at LUSB
   Pulmonary: Coarse breath sounds anteriorly, no wheezes or rhonchi
   Abdominal: soft, non-distended, no wincing or grimacing to palpation,
   no masses, normoactive bowel sounds
   Extremities: Warm, well-perfused, onychomycoses on toenails
   bilaterally.  1+ edema in left arm.
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: Opens eyes to voice, tracks faces, moves eyes and blinks on
   command, squeezes hands bilaterally. Babinski
s down going bilaterally.
   Labs / Radiology
   171 K/uL
   10.9 g/dL
   mg/dL
   mg/dL
   mEq/L
   mEq/L
   mg/dL
   mEq/L
   mEq/L
   31.9 %
   12.9 K/uL
        [image002.jpg]
                             [**2177-12-30**]  12:48 PM
                             [**2177-12-30**]  09:00 PM
                             [**2177-12-31**]  05:44 AM
                             [**2177-12-31**]  05:57 AM
                             [**2177-12-31**]  10:07 AM
                             [**2177-12-31**]  12:14 PM
                             [**2177-12-31**]  12:28 PM
                             [**2177-12-31**]  05:42 PM
                             [**2177-12-31**]  08:55 PM
                             [**2178-1-1**]  06:05 AM
   WBC
   13.6
   12.9
   Hct
   28.7
   34.5
   33.1
   32.2
   31.9
   Plt
   156
   171
   Cr
   0.4
   TCO2
   26
   26
   25
   26
   28
   Glucose
   151
   Other labs:
   Mg:
   Urine cx ([**12-28**]):  pan-sensitive klebsiella pneumoniae
   [**Month/Year (2) **] culture from [**12-28**] and [**12-29**]: pending
   [**Month/Year (2) **] and Plan
   77 yo F w/ DMII, HTN, HLD, and dementia transferred from OSH s/p
   cardiac arrest, complicated by upper GI bleed and generalized seizure
   activity.
   .
   # Respiratory distress: Patient was extubated yesterday, ABG looks good
   on face mask.   Patient has periods of apnea [**1-13**] known sleep apnea.
   - wean oxygen as needed
   - monitor respiratory status and prn ABG
   - atrovent and albuterol nebs prn
   .
   # Anoxic brain encephalopathy:  Patient suffered from anoxic brain
   injury from VF arrest at nursing home, and is recovering nicely.
   Patient noted to have generalized seizure activity upon arrival to CCU.
   CTA head demonstrates no ICH. Neurology felt that the seizure may have
   been in the setting of hypoxia after VF arrest.  Patient
s cortical
   function slowly returning, currently able to follow simple commands,
   e.g. squeezing both hands, moving eyes. She was loaded with Dilantin on
   [**12-28**] for seizure prophylaxis and a 24 hr EEG was started yesterday.
   Maintenance Dilantin was not started until [**12-30**].   Since the dilantin
   level was low at 4.7 yesterday, she was given another dilantin load of
   700mg yesterday.
   - f/u on dilantin level today
   - Continue Dilantin 100mg IV TID, will check level again tomorrow &
   titrate PRN
   - f/u 24 hr EEG
   - f/u Neurology recs
   - Serial neuro exams
   - Seizure precautions, Ativan IV 2 mg PRN: seizures
   .
   # Coronary ischemia s/p VF arrest: Patient with multiple risk factors
   for CAD including DMII, HTN, HLD. She is s/p VF arrest &
   defibrillation. EKG initially showed NSTEMI and cardiac catheterization
   at OSH demonstrated severe 3VD including critical left main disease,
   but patient with negative troponins at OSH and EKG normalized after
   initiation of medical therapy suggesting resolution of coronary
   occlusion. Patient without episodes of arrhythmia since the day of
   admission, now off Amiodarone, Lidocaine, and Heparin gtt. Code status
   was readdressed and HCP requesting that patient receive defibrillation
   or cardioversion as needed, but no chest compressions.
   - Continue aspirin, plavix, high dose statin, labetalol
   - will need Csurg re-evaluation for possible CABG or interventional
   cardiologist eval for balloon angio for her severe left main disease
   once pt is more stable from resp and neuro stand point
   - Continuous telemetry
   - replete K > 4, Mg > 2
   .
   # Fever, leukocytosis: WBC trending down (12.9 today), and patient has
   been afebrile for over 48h.  Urine cultures grew klebsiella pneumoniae.
   Sputum cultures grew Moraxella catarrhalis, sensitivities pending.
   Repeat CXR
s clear. Started on IV Ceftriaxone. 1 of 4 [**Month/Year (2) 1056**] cultures
   from the central line grew out coag negative staph, likely
   contamination.  No diarrhea.
   - As patient switching to PO
s & Moraxella likely to be chronic and not
   cause of pneurmonia, switch back to Bactrim DS PO BID x 7 days, day [**2-15**]
   - f/u sputum cx speciation/sensitivities
   - F/U remaining [**Month/Day (4) 1056**] cx
   - If patient develops diarrhea, can send C. diff
   .
   # GI bleed: Patient s/p 4u pRBC
s on (2u on [**12-28**], 2u on [**12-30**]) for
   likely UGIB in setting of anticoagulation (Heparin gtt, ASA, Plavix,
   Integrillin). NG output far less bloody-appearing and only 100cc over
   the past 24h.  Hct this morning 31.9. Guaiac positive. PO meds were
   started yesterday.
   - Continue Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY
   - Hct check daily
   - Transfuse for Hct goal >30
   - Active T&S ([**12-30**]), R-IJ & two PIV
   .
   #  Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, now has been hypertensive with sbp
s in
   the 180-190
s, requiring Labetalol PRN. While patient is noted to have
   h/o HTN, her baseline BP
s are unknown and she takes no
   antihypertensives as an outpatient.
   - Goal sbp
s at 150-160, UOP >30cc/hr, goal CVP 10cm
   - continue labetalol 100mg [**Hospital1 **]
   - increase captopril to 12.5mg TID
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - continue labetalol 100mg [**Hospital1 **]
   - increase captopril to 12.5mg TID
   .
   # HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - continue Lipitor 80mg daily
   .
   # Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - continue home Risperdal 4mg qAM & 6mg q8PM
   .
   # Dementia:
   - continue Namenda 10mg [**Hospital1 **]
   .
   # PVD: s/p AAA repair
   - continue Lipitor 80mg daily
   ICU Care
   Nutrition: S/S eval today, will determine whether PO or TF
   Glycemic Control:  Humalog ISS
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   18 Gauge - [**2177-12-27**] 11:19 PM
   20 Gauge - [**2177-12-28**] 12:16 AM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer: IV Pantoprazole
   VAP:  none
   Communication:  HCP is Daughter, [**Name (NI) 777**]
   [**Last Name (NamePattern1) 156**] status: DNR (NO COMPRESSION, BUT OK TO SHOCK), ok to intubate
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note:09.00hrs
   Revieqwed overnight course and examined Pt.
   Agree with Dr.[**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1412**] and Rx plan.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spentb 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2178-1-1**] 10:17 ------

2178-01-02 07:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - neuro says not to reload dilantin, goal level [**9-25**]
   - failed S&S, started tube feeds
   - hypertensive, labetalol to 100 TID
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2177-12-30**] 12:40 PM
   Ceftriaxone - [**2177-12-31**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-2**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 38.1
C (100.6
   Tcurrent: 37.3
C (99.2
   HR: 79 (68 - 88) bpm
   BP: 175/65(94) {143/57(78) - 181/85(99)} mmHg
   RR: 21 (17 - 27) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.5 kg (admission): 67 kg
   Height: 64 Inch
                  Total In:
                                                                    812 mL
                                                                    321 mL
   PO:
                  TF:
                                                                    232 mL
                                                                    221 mL
   IVF:
                                                                    150 mL
   Blood products:
   Total out:
                                                                  1,490 mL
                                                                    555 mL
   Urine:
                                                                  1,490 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -678 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///28/
   Physical Examination
   General: elderly woman, lying in bed with eyes open and tracking to
   voice, NAD
   HEENT: NC/AT, NGT and nasal cannula in place
   Cardio: Regular rate & rhythm, II/VI systolic murmur at LUSB
   Pulmonary: Coarse breath sounds anteriorly, no wheezes or rhonchi
   Abdominal: soft, non-distended, no wincing or grimacing to palpation,
   no masses, normoactive bowel sounds
   Extremities: Warm, well-perfused, onychomycoses on toenails
   bilaterally.  1+ edema in left arm.
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: Opens eyes to voice, tracks faces, moves eyes and blinks on
   command, squeezes hands bilaterally. Babinski
s down going bilaterally.
   Labs / Radiology
   187 K/uL
   11.5 g/dL
   165 mg/dL
   0.4 mg/dL
   28 mEq/L
   3.7 mEq/L
   16 mg/dL
   105 mEq/L
   138 mEq/L
   34.0 %
   14.7 K/uL
        [image002.jpg]
                             [**2177-12-31**]  05:44 AM
                             [**2177-12-31**]  05:57 AM
                             [**2177-12-31**]  10:07 AM
                             [**2177-12-31**]  12:14 PM
                             [**2177-12-31**]  12:28 PM
                             [**2177-12-31**]  05:42 PM
                             [**2177-12-31**]  08:55 PM
                             [**2178-1-1**]  06:05 AM
                             [**2178-1-1**]  04:42 PM
                             [**2178-1-2**]  04:47 AM
   WBC
   13.6
   12.9
   14.7
   Hct
   34.5
   33.1
   32.2
   31.9
   33.8
   34.0
   Plt
   156
   171
   187
   Cr
   0.4
   0.4
   0.4
   TCO2
   26
   25
   26
   28
   Glucose
   151
   138
   165
   Other labs:
   PT / PTT / INR:14.7/21.9/1.3,
   Albumin:2.9 g/dL,
   Mg++:2.0 mg/dL,
   Phenytoin: 7.5,  Corrected phenytoin level 11
   No new micro data
   No new imaging
   [**Year (4 digits) **] and Plan
   77 yo F w/ DMII, HTN, HLD, and dementia transferred from OSH s/p
   cardiac arrest, complicated by upper GI bleed and generalized seizure
   activity.
   .
   # Rhythm: patient was noted to have brief Afib and aflutter on tele
   this morning.  Resolved without intervention.
   - change labetalol to metoprolol 25mg TID, uptitrate as tolerated,
   target HR 60-80
   - continue to monitor on tele
   - no anticoagulation for now
   .
   # Respiratory distress: Patient was extubated [**12-31**], ABG looks good on
   2L nasal cannula.   Patient has periods of apnea [**1-13**] known sleep
   apnea.
   - continue regular suction
   - aspiration precaution
   - continue bactrim (day [**3-18**])
   - if febrile, will pan culture
   - wean oxygen as needed
   - monitor respiratory status and prn ABG
   - atrovent and albuterol nebs prn
   .
   # Anoxic brain encephalopathy:  Per her daughter, patient
s mental
   status is currently at her baseline.  Patient suffered from anoxic
   brain injury from VF arrest at nursing home, and is recovering nicely.
   Patient
s cortical function returning, currently able to follow
   commands, e.g. squeezing both hands, moving eyes. Patient noted to have
   generalized seizure activity upon arrival to CCU. CTA head demonstrates
   no ICH. Neurology felt that the seizure may have been in the setting of
   hypoxia after VF arrest.  She was loaded with Dilantin on [**12-28**] for
   seizure prophylaxis and started on maintenance dilantin on [**12-30**].  A 24
   hr EEG was done which showed temporal slowing and some spikes, but no
   seizure activity.  Per neurology, goal Dilantin level should be [**9-25**].
   Corrected Dilantin level is 11 today.
   - Continue Dilantin 100mg IV TID for 7days (day [**3-18**] today), will check
   level again tomorrow & titrate PRN
   - f/u Neurology recs
   - Serial neuro exams
   - Seizure precautions, Ativan IV 2 mg PRN: seizures
   .
   # Deconditioning:  Patient was extubated on [**12-31**], failed S/S eval on
   [**1-1**].  Currently very weak.
   - continue TF to regain strength
   - OT/PT
   .
   # Coronary ischemia s/p VF arrest: Patient with multiple risk factors
   for CAD including DMII, HTN, HLD. She is s/p VF arrest &
   defibrillation. EKG initially showed NSTEMI and cardiac catheterization
   at OSH demonstrated severe 3VD including critical left main disease,
   but patient with negative troponins at OSH and EKG normalized after
   initiation of medical therapy suggesting resolution of coronary
   occlusion. Patient without episodes of arrhythmia since the day of
   admission, now off Amiodarone, Lidocaine, and Heparin gtt. Code status
   was readdressed and HCP requesting that patient receive defibrillation
   or cardioversion as needed, but no chest compressions.
   - Continue aspirin, plavix, high dose statin, metoprolol
   - will need interventional cardiologist eval for balloon angio or Csurg
   re-evaluation for possible CABG for her severe left main disease once
   pt is more stable from resp and neuro stand point, possibly next week
   - Continuous telemetry
   - replete K > 4, Mg > 2
   .
   # Fever, leukocytosis: WBC up today to 14.7, but patient has been
   afebrile.  Urine cultures grew klebsiella pneumoniae. Sputum cultures
   grew Moraxella catarrhalis, sensitivities pending. Repeat CXR
s clear.
   Started on IV Ceftriaxone. 1 of 4 blood cultures from the central line
   grew out coag negative staph, likely contamination.  No diarrhea. As
   patient switched to PO
s & Moraxella likely to be chronic and not cause
   of pneurmonia, abx was switch back to Bactrim DS PO BID x 7 days.
   - continue bacterim, day [**3-18**]
   - f/u sputum cx speciation/sensitivities
   - F/U remaining blood cx
   - If patient develops diarrhea, can send C. diff
   - if patient febrile, will send more cultures
   .
   # Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, now has been hypertensive with sbp
s in
   the 180-190
s despite Labetalol and captopril.  Labetalol was increased
   from 100mg [**Hospital1 **] to 100mg TID.  Captopril was increased from 6.25mg TID
   to 12.5mg TID. BP better controlled after the above dose increases.
   - continue labetalol 100mg TID
   - continue captopril at 12.5mg TID
   .
   # GI bleed: Resolved.  Hct this morning 34.0. PO meds were started
   [**12-31**]. Patient s/p 4u pRBC
s on (2u on [**12-28**], 2u on [**12-30**]) for likely UGIB
   in setting of anticoagulation (Heparin gtt, ASA, Plavix, Integrillin).
   - Continue Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY
   - Hct check daily
   - Transfuse for Hct goal >30
   - Active T&S ([**12-30**]), R-IJ for access
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - continue labetalol 100mg TID
   - continue captopril at 12.5mg TID
   .
   # HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - continue Lipitor 80mg daily
   .
   # Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - check with psych whether risperdal should be held given recent sz
   .
   # Dementia:
   - continue Namenda 10mg [**Hospital1 **]
   .
   # PVD: s/p AAA repair
   - continue Lipitor 80mg daily
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2178-1-1**] 12:00 PM 40 mL/hour
   Glycemic Control:  HISS
   Lines:
   Arterial Line - [**2177-12-27**] 09:30 PM
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: Pneumoboots
   Stress ulcer:  Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY
   VAP:  none
   Communication:  HCP is Daughter, [**Name (NI) 777**]
   [**Last Name (NamePattern1) 156**] status: DNR (NO COMPRESSION, BUT OK TO SHOCK), ok to intubate
   Disposition: CCU
   ------ Protected Section ------
   Attending
s Note:10.30hrs
   Reviewed overnight course and data.
   Examined Pt and agree with Dr.[**First Name7 (NamePattern1) **]
[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1412**] and Rx Plan.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**]
   Spent 40 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2178-1-2**] 10:59 ------

2178-01-03 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Episodes of atrial fibrillation/atrial flutter up to 170s on
   telemetry in the AM that breaks w/ Valsalva.
   - Labetalol stopped, started Metoprolol tartrate 25mg TID
   - Neuro recs: last day of dilantin [**1-4**] (sunday)
   - Psych recommends maintaining  Risperdal as it is a good medication to
   treat psychotic patients who also have seizure.
   - PT: pt may need high level rehab before going back to [**Hospital1 **]
   - OT: no recs today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2177-12-31**] 08:20 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-3**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.8
C (98.2
   HR: 78 (67 - 141) bpm
   BP: 126/50(67) {95/37(55) - 189/91(115)} mmHg
   RR: 23 (17 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.3 kg (admission): 67 kg
   Height: 64 Inch
             Total In:
                                                                  1,907 mL
                                                                    661 mL
   PO:
             TF:
                                                                    882 mL
                                                                    306 mL
   IVF:
                                                                    225 mL
                                                                    125 mL
   Blood products:
   Total out:
                                                                  2,040 mL
                                                                    795 mL
   Urine:
                                                                  2,040 mL
                                                                    795 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -133 mL
                                                                   -134 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///31/
   Physical Examination
   General: elderly woman, lying in bed with eyes open and verbally
   responding to voice, NAD
   HEENT: NC/AT, NGT and nasal cannula in place
   Cardio: Regular rate & rhythm, II/VI systolic murmur at LUSB
   Pulmonary: Coarse breath sounds anteriorly, no wheezes or rhonchi
   Abdominal: soft, non-distended, no wincing or grimacing to palpation,
   no masses, normoactive bowel sounds
   Extremities: Warm, well-perfused, onychomycoses on toenails
   bilaterally.
   Peripheral Vascular: (Right radial pulse: present), (Left radial pulse:
   present), (Right DP pulse: present), (Left DP pulse: present)
   Neurologic: Opens eyes to voice, verbally responds to conversation,
   tracks faces, moves eyes and blinks on command, squeezes hands
   bilaterally. Babinski
s down going bilaterally.
   Labs / Radiology
   244 K/uL
   11.5 g/dL
   160 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   34.9 %
   14.9 K/uL
        [image002.jpg]
                             [**2177-12-31**]  10:07 AM
                             [**2177-12-31**]  12:14 PM
                             [**2177-12-31**]  12:28 PM
                             [**2177-12-31**]  05:42 PM
                             [**2177-12-31**]  08:55 PM
                             [**2178-1-1**]  06:05 AM
                             [**2178-1-1**]  04:42 PM
                             [**2178-1-2**]  04:47 AM
                             [**2178-1-2**]  04:14 PM
                             [**2178-1-3**]  02:58 AM
   WBC
   12.9
   14.7
   14.9
   Hct
   33.1
   32.2
   31.9
   33.8
   34.0
   34.4
   34.9
   Plt
   171
   187
   244
   Cr
   0.4
   0.4
   0.4
   TCO2
   25
   26
   28
   Glucose
   138
   165
   160
   Other labs: PT / PTT / INR:14.0/21.4/1.2, CK / CKMB /
   Troponin-T:196/24/0.32, ALT / AST:24/37, Alk Phos / T Bili:55/0.8,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:218 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   77 yo F w/ DMII, HTN, HLD, and dementia transferred from OSH s/p
   cardiac arrest, complicated by upper GI bleed and generalized seizure
   activity.
   .
   # Deconditioning:  Patient was extubated on [**12-31**], failed S/S eval on
   [**1-1**].  Currently very weak. PT recommending high level rehab.
   - continue TF
   - OT/PT
   .
   # Respiratory distress: Patient was extubated [**12-31**], ABG looks good on
   2L nasal cannula.  Patient has periods of apnea [**1-13**] known sleep apnea.
   - Continue regular suction
   - Aspiration precaution
   - Continue Bactrim (day [**4-17**])
   - Wean oxygen as tolerates
   - monitor respiratory status and prn ABG
   - Atrovent and Albuterol nebs prn
   .
   # Rhythm: patient was noted to have brief Afib and aflutter on tele
   [**1-2**] AM.  Resolved without intervention and without further episodes.
   - Continue Metoprolol 25mg TID, uptitrate as tolerated, target HR 60-80
   - Continue to monitor on telemetry
   - No need for anticoagulation for now
   .
   # Coronary ischemia s/p VF arrest: s/p VF arrest & defibrillation. EKG
   initially showed NSTEMI and cardiac catheterization at OSH demonstrated
   severe 3VD including critical left main disease, but patient with
   negative troponins at OSH and EKG normalized after initiation of
   medical therapy suggesting resolution of coronary occlusion. Patient
   without episodes of arrhythmia since the day of admission, now off
   Amiodarone, Lidocaine, and Heparin gtt. Code status was readdressed and
   HCP requesting that patient receive defibrillation or cardioversion as
   needed, but no chest compressions.
   - Continue Aspirin, plavix, high dose statin, Metoprolol
   - Will need interventional cardiologist evaluation for balloon angio
   for her severe left main disease early next week
   - Continuous telemetry
   - replete K > 4, Mg > 2
   .
   # Anoxic brain encephalopathy:  Per her daughter, patient
s mental
   status is currently at her baseline.  Patient suffered from anoxic
   brain injury from VF arrest at nursing home, and is recovering well.
   Patient
s cortical function returning, currently able to follow
   commands, e.g. squeezing both hands, moving eyes. Patient noted to have
   generalized seizure activity upon arrival to CCU. CTA head demonstrates
   no ICH. Neurology felt that the seizure may have been in the setting of
   hypoxia after VF arrest.  She was loaded with Dilantin on [**12-28**] for
   seizure prophylaxis and started on maintenance Dilantin on [**12-30**].  A 24
   hr EEG was done which showed temporal slowing and some spikes, but no
   seizure activity.  Per neurology, goal Dilantin level should be [**9-25**]
   with last dose on [**1-4**]. Dilantin level this AM was 6.4, corrected for
   albumin is 9.4.
   - Continue Dilantin 100mg IV TID (day [**5-18**])
   - f/u Neurology recs
   - Serial neuro exams
   - Seizure precautions, Ativan IV 2 mg PRN: seizures
   .
   # Fever, leukocytosis: WBC today 14.9, but patient afebrile.  Urine
   cultures grew pansensitive Klebsiella pneumoniae. Sputum cultures grew
   Moraxella catarrhalis, sensitivities pending. Repeat CXR
s clear.
   Started on IV Ceftriaxone. 1 of 4 blood cultures from the central line
   grew out coag negative staph, likely contamination.  No diarrhea. As
   patient switched to PO
s & Moraxella likely to be chronic and not cause
   of pneurmonia, abx was switch back to Bactrim DS PO BID x 7 days.
   - Continue Bactrim, day [**4-17**]
   - f/u sputum cx speciation/sensitivities
   - F/U remaining blood cx
   - If patient develops diarrhea, can send C. diff
   - if patient febrile, will send more cultures
   .
   # Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, became hypertensive with sbp
s in the
   180-190
s, treated with Labetalol and Captopril.  Now, patient
   transitioned to Metoprolol and Captopril was increased to 25mg TID. BP
   better controlled after the above dose increases.
   - continue Metoprolol 25mg TID
   - continue Captopril at 25mg TID
   .
   # GI bleed: Resolved.  Hct stable at 34.9. PO meds were started [**12-31**].
   Patient s/p 4u pRBC
s on (2u on [**12-28**], 2u on [**12-30**]) for likely UGIB in
   setting of anticoagulation (Heparin gtt, ASA, Plavix, Integrillin).
   - Continue Lansoprazole Oral Disintegrating Tab 30 mg PO/NG DAILY
   - Hct check daily
   - Transfuse for Hct goal >30
   - Active T&S ([**12-30**]), R-IJ for access
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - continue Metoprolol 25mg TID
   - continue Captopril at 25mg TID
   .
   # HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - continue Lipitor 80mg daily
   .
   # Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - Continue home Risperdal dose
   .
   # Dementia:
   - continue Namenda 10mg [**Hospital1 **]
   .
   # PVD: s/p AAA repair
   - continue Lipitor 80mg daily
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2178-1-2**] 09:07 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Patient
s daughter (HCP)
   [**Name (NI) 156**] status: DNR (ok to shock and intubate)
   Disposition: to rehab
   ------ Protected Section ------
   Attending
s Note:08.40hrs.
   Reviewed data and examined Pt.
   Agree wioth Dr.[**Last Name (STitle) 10891**]
s assessment and plan.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 40 mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2178-1-3**] 10:28 ------

2178-01-04 07:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-2**]:
   - episodes of SVT (atrial flutter) up to 170s on tele. breaks w/
   Valsalva.
   - talking, following commands, reflexes intact
   - d/c'd labetalol, started metoprolol tartrate 25mg TID
   - neuro recs: last day of dilantin [**1-4**] (sunday)
   - psych re risperdal: risperdal and zyprexa are the two best medication
   to treat psychotic pts who also have seizure.  recommend not
   discontinuing risperdal until after talking with the outpatient
   psychiatrist since patient has been on it for a while (based on her
   tardive dyskinesia). decided to keep pt on it.
   - GI signed off, can have GI f/u as outpt if desired w/ [**First Name5 (NamePattern1) **] [**Last Name (NamePattern1) 11129**]
   - lost [**Name (NI) 1950**]
   - PT: pt may need high level rehab before going back to [**Hospital1 **]
   - OT: no recs today
   History obtained from [**Hospital 19**] Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2178-1-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2178-1-4**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**79**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 91 (68 - 92) bpm
   BP: 135/111(116) {90/37(52) - 166/111(116)} mmHg
   RR: 26 (20 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.1 kg (admission): 67 kg
   Height: 64 Inch
             Total In:
                                                                  2,001 mL
                                                                    446 mL
   PO:
             TF:
                                                                    961 mL
                                                                    220 mL
   IVF:
                                                                    290 mL
                                                                     66 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    640 mL
   Urine:
                                                                  2,255 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -254 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ////
   Physical Examination
   Gen: obvious respiratory difficulty (gurgling)
   Card: [**Last Name (un) **] [**Last Name (un) **], no m/r/g
   Resp: bs to bases, overwhelming upperairway noises
   Abd: soft, nt, nd
   Peripheral Vascular: pulses 2+ at radial and dp
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   250 K/uL
   11.3 g/dL
   160 mg/dL
   0.4 mg/dL
   31 mEq/L
   4.1 mEq/L
   13 mg/dL
   104 mEq/L
   140 mEq/L
   34.2 %
   18.0 K/uL
        [image002.jpg]
                             [**2177-12-31**]  12:14 PM
                             [**2177-12-31**]  12:28 PM
                             [**2177-12-31**]  05:42 PM
                             [**2177-12-31**]  08:55 PM
                             [**2178-1-1**]  06:05 AM
                             [**2178-1-1**]  04:42 PM
                             [**2178-1-2**]  04:47 AM
                             [**2178-1-2**]  04:14 PM
                             [**2178-1-3**]  02:58 AM
                             [**2178-1-4**]  05:35 AM
   WBC
   12.9
   14.7
   14.9
   18.0
   Hct
   33.1
   32.2
   31.9
   33.8
   34.0
   34.4
   34.9
   34.2
   Plt
   171
   187
   244
   250
   Cr
   0.4
   0.4
   0.4
   TCO2
   26
   28
   Glucose
   138
   165
   160
   Other labs: PT / PTT / INR:14.0/21.4/1.2, CK / CKMB /
   Troponin-T:196/24/0.32, ALT / AST:24/37, Alk Phos / T Bili:55/0.8,
   Lactic Acid:1.4 mmol/L, Albumin:2.9 g/dL, LDH:218 IU/L, Ca++:8.2 mg/dL,
   Mg++:2.4 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   77 yo F w/ DMII, HTN, HLD, and dementia transferred from OSH s/p
   cardiac arrest, complicated by upper GI bleed and generalized seizure
   activity.
   .
   # GI bleed: Recurring.  Hct stable at 34.2. PO meds were started [**12-31**].
   Patient s/p 4u pRBC
s on (2u on [**12-28**], 2u on [**12-30**]) for likely UGIB in
   setting of anticoagulation (Heparin gtt, ASA, Plavix, Integrillin).
   Currently producing 'coffee grounds' residuals with pink, clearing,
   lavage thereafter. This is likely gastric ulcers in the setting of asa,
   plavix.
   - PPI [**Hospital1 **] to downgrade lesions, drip if continuous bleeding
   - Hct check [**Hospital1 **] today, if stable, daily
   - GI aware
   - Transfuse for Hct goal >30
   - Active T&S ([**12-30**]), R-IJ for access
   .
   # Respiratory distress: Patient was extubated [**12-31**], ABG looked good on
   2L nasal cannula.  Patient has periods of apnea [**1-13**] known sleep apnea
   and will desaturates to 91-92 while sleeping. She is likely aspirating
   constantly; worsened by NGT. Given borderline temp and P02 of 60 on
   [**1-4**], likely asp pneumonitis/pna
   - start clinda
   - Continue regular suction
   - family meeting
   - Aspiration precaution
   - Continue Bactrim (day [**5-18**]); add clindamycin - Wean oxygen as
   tolerates
   - monitor respiratory status and prn ABG
   - Atrovent and Albuterol nebs prn
   .
   # Fever, leukocytosis: WBC today 18.0 from 14.6, but patient afebrile
   (though temp is climbing).  Urine cultures grew pansensitive Klebsiella
   pneumoniae. Sputum cultures grew Moraxella catarrhalis, sensitivities
   pending. Repeat CXR
s clear. Started on IV Ceftriaxone. 1 of 4 blood
   cultures from the central line grew out coag negative staph, likely
   contamination.  No diarrhea. As patient switched to PO
s & Moraxella
   likely to be chronic and not cause of pneurmonia, abx was switch back
   to Bactrim DS PO BID x 7 days.
   - Continue Bactrim, day [**5-18**]
   - F/U remaining blood cx
   - If patient develops diarrhea, can send C. diff
   - if patient febrile, will send more cultures and likely start
   clindamycin
   .
   .
   # Deconditioning:  Patient was extubated on [**12-31**], failed S/S eval on
   [**1-1**].  Currently very weak. PT recommending high level rehab.
   - holding Tf
   - OT/PT
   .
   # Rhythm: patient was noted to have brief Afib and aflutter on tele
   [**1-2**] AM.  Resolved without intervention and without further episodes.
   - Continue Metoprolol 25mg TID, uptitrate as tolerated, target HR 60-80
   - Continue to monitor on telemetry
   - No need for anticoagulation for now
   .
   # Coronary ischemia s/p VF arrest: s/p VF arrest & defibrillation. EKG
   initially showed NSTEMI and cardiac catheterization at OSH demonstrated
   severe 3VD including critical left main disease, but patient with
   negative troponins at OSH and EKG normalized after initiation of
   medical therapy suggesting resolution of coronary occlusion. Patient
   without episodes of arrhythmia since the day of admission, now off
   Amiodarone, Lidocaine, and Heparin gtt. Code status was readdressed and
   HCP requesting that patient receive defibrillation or cardioversion as
   needed, but no chest compressions.
   - Continue Aspirin, plavix, high dose statin, Metoprolol
   - Will need interventional cardiologist evaluation for balloon angio
   for her severe left main disease early next week
   - Continuous telemetry
   - replete K > 4, Mg > 2
   .
   # Anoxic brain encephalopathy:  Per her daughter, patient
s mental
   status is currently at her baseline.  Patient suffered from anoxic
   brain injury from VF arrest at nursing home, and is recovering well.
   Patient
s cortical function returning, currently able to follow
   commands, e.g. squeezing both hands, moving eyes. Patient noted to have
   generalized seizure activity upon arrival to CCU. CTA head demonstrates
   no ICH. Neurology felt that the seizure may have been in the setting of
   hypoxia after VF arrest.  She was loaded with Dilantin on [**12-28**] for
   seizure prophylaxis and started on maintenance Dilantin on [**12-30**].  A 24
   hr EEG was done which showed temporal slowing and some spikes, but no
   seizure activity.  Per neurology, goal Dilantin level should be [**9-25**]
   with last dose on [**1-4**]. Dilantin level this AM was 6.4, corrected for
   albumin is 9.4.
   - Continue Dilantin 100mg IV TID (day [**6-17**]); d/c today
   - f/u Neurology recs
   - Serial neuro exams
   - Seizure precautions, Ativan IV 2 mg PRN: seizures
   .
   # Hypertension: Patient previously hypotensive in the setting of Artic
   Sun, Nitro gtt, and sedation, became hypertensive with sbp
s in the
   180-190
s, treated with Labetalol and Captopril.  Now, patient
   transitioned to Metoprolol and Captopril was increased to 25mg TID. BP
   better controlled after the above dose increases.
   - continue Metoprolol 25mg TID
   - continue Captopril at 25mg TID
   .
   #  PUMP:  TTE done on [**12-29**] showed EF of mild regional left ventricular
   systolic dysfunction with basal to mid inferior and inferolateral
   hypokinesis. EF 45-50%.  Patient appears euvolemic, no evidence of
   failure.
   - continue Metoprolol 25mg TID
   - continue Captopril at 25mg TID
   .
   # HLD: Total Cholesterol 102, TG 98, HDL 34, Chol/HD 3.0, LDL <50.
   - continue Lipitor 80mg daily
   .
   # Diabetes Mellitus II: HgbA1c 13.0%. Holding home Metformin.
   - continue HISS
   .
   #  Schizophrenia:
   - Continue home Risperdal dose
   .
   # Dementia:
   - continue Namenda 10mg [**Hospital1 **]
   .
   # PVD: s/p AAA repair
   - continue Lipitor 80mg daily
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2177-12-28**] 01:01 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   ------ Protected Section ------
   Attending
s Note:09.30hrs
   Reviewed overnight course and data.
   Examined Pt and agree with Dr.[**Last Name (STitle) **]
s plan of Rx.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 4425**].
   Spent 40mins on case
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 4425**]
   on:[**2178-1-4**] 12:45 ------